US04405498
Bismuth Molybdate Component
28.78 grams of molybdenum oxide (MoO3) were dissolved in a mixture of 72 ml of water and 36 ml of concentrated ammonium hydroxide, added to a solution of 97 grams of bismuth nitrate pentahydrate in ~184 ml of water and 30 ml of concentrated nitric acid with stirring, and the pH of the resulting mixture was adjusted to between 3 and 6.5 using ammonium hydroxide whereafter it was boiled for approximately 3 hours. The precipitate was filtered and washed with approximately 1000 ml of water.

reactant | molybdenum oxide | 28.78 grams | [Mo]=O
reactant | bismuth nitrate pentahydrate | 97 grams | O.O.O.O.O.[N+](=O)([O-])[O-].[Bi+3].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
solvent | water | 72 ml | O | H2O
solvent | ammonium hydroxide | 36 ml | [OH-].[NH4+]
solvent | water | ~184 ml | O | H2O
solvent | nitric acid | 30 ml | [N+](=O)(O)[O-] | HNO3
product | Bismuth Molybdate | [O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[Mo].[Mo].[Bi+3].[Bi+3] | InChI=1S/2Bi.2Mo.9O/q2*+3;;;9*-2
